US07560551B2
Synthesis of 3,3-Dibromo-4-chloro-1H-pyrrolo[2,3-b]pyridin-2(3H)-one
The title compound was prepared according to the procedure described in WO2001046196A1. To a stirred suspension of 4-chloro-1H-pyrrolo[2,3-b]pyridine (2.00 g, 13.1 mmol) in t-BuOH (131 ml, 13.1 mmol) was added pyridinium tribromide (14.1 g, 44.2 mmol) by small portions. The solution was stirred at rt for 2 h. After 3 h, LCMS showed product and mono brominated product. 5.00 g of pyridinium tribromide was added. After 1.5 h, LCMS showed mainly product and excess pyridinium tribromide. After another 0.5 h, water was added and the whole was diluted with EtOAc until all solids were dissolved. The product was extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, filtered, and concentrated. Trituration of the crude product with hexanes gave an orange solid. 1H NMR confirmed the product, 3,3-dibromo-4-chloro-1H-pyrrolo[2,3-b]pyridin-2(3H)-one (4.07 g, 95% yield). The product was insoluble in DCM and CHCl3. MS Calcd for C7H3Br2ClN2O: [M]+=324. Found: [M+H]+=325, [M+3H]+=327.

reactant | 4-chloro-1H-pyrrolo[2,3-b]pyridine | 13.1 mmol, 2.00 g | ClC1=C2C(=NC=C1)NC=C2 | C7H5ClN2
reactant | t-BuOH | 13.1 mmol, 131 ml | CC(C)(C)O | C4H10O
reactant | pyridinium tribromide | 44.2 mmol, 14.1 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | pyridinium tribromide | 5.00 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3,3-Dibromo-4-chloro-1H-pyrrolo[2,3-b]pyridin-2(3H)-one | BrC1(C(NC2=NC=CC(=C21)Cl)=O)Br | C7H3Br2ClN2O
